US04720493
To a solution of 23 g of 2-(4-chlorobutyl)thiophene and 17.9 g of chloroacetyl chloride in 250 ml of dichloromethane is added a small portion of 21 g of aluminum chloride under cooling at 0°-5° C. and with stirring. After stirring under cooling with ice for 2 hours, the resultant mixture is poured into water and the organic layer is separated. The water layer is extracted with chloroform and the extract is combined with the organic layer. The combined organic layer is washed with water and dried over magnesium sulfate. The solvent is distilled off under reduced pressure to give 30 g of 2-chloroacetyl-5-(4-chlorobutyl)thiophene as a brown oil. To a solution of the oil in 300 ml of ethanol is added 11 g of thiourea, and refluxed on a water bath for 2 hours. After the solvent is concentrated under reduced pressure, water is added to the residue and the precipitated crystalline hydrochloride is collected by filtration. To a suspension of the crystals in a mixture of water and ethyl acetate is added sodium hydrogencarbonate until the mixture is made alkaline. The organic layer is separated, washed with water and dried over magnesium sulfate. After the is distilled off under reduced pressure, the residue is recrystallized from ethanol to give 2-amino-4-[5-(4-chlorobutyl)-2-thienyl] thiazole as pale yellow crystals, melting at 99°-100° C.

reactant | 2-(4-chlorobutyl)thiophene | 23 g | ClCCCCC=1SC=CC1 | C8H11ClS
reactant | chloroacetyl chloride | 17.9 g | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminum chloride | 21 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-chloroacetyl-5-(4-chlorobutyl)thiophene | 30 g | ClCC(=O)C=1SC(=CC1)CCCCCl | C10H12Cl2OS
